US05338857
Added to a mixed solvent of 22 ml of ethyl alcohol and 5 ml of dichloromethane were 2.22 g (9.61 mmol) of 3-(4-methoxyphenyl)-5-propionylisoxazole, 0.96 ml of a 37% aqueous formaldehyde solution and 1.37 g (19.2 mmol) of pyrrolidine, followed by stirring at room temperature for 8 hours. Water and ethyl ether were added, and the resultant mixture was acidified with 2N-hydrochloric acid. The water layer was separated and collected. After the water layer was alkalinized with an aqueous solution of pottasium hydroxide, dichloromethane was added for extraction. The solvent was distilled off, whereby 3-(4-methoxyphenyl)-5-{2-methyl-3-(1-pyrrolidinyl)propionyl} isoxazole was obtained as colorless crystals. Analytical results of the crystals obtained: Yield: 1.73 g (57%). Melting point: 75°-77° C.

reactant | 3-(4-methoxyphenyl)-5-propionylisoxazole | 9.61 mmol, 2.22 g | COC1=CC=C(C=C1)C1=NOC(=C1)C(CC)=O | C13H13NO3
reactant | formaldehyde | C=O | CH2O
reactant | pyrrolidine | 19.2 mmol, 1.37 g | N1CCCC1 | C4H9N
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl alcohol | 22 ml | C(C)O | C2H6O
product | 3-(4-methoxyphenyl)-5-{2-methyl-3-(1-pyrrolidinyl)propionyl} isoxazole | COC1=CC=C(C=C1)C1=NOC(=C1)C(C(CN1CCCC1)C)=O | C18H22N2O3
